US07563907B2
1-(5-carboxy-pentyl)-4-((E)-2-{7-[ethyl-(3-sulfonatopropyl)-amino]-2-oxo-2H-chromen-3-yl}-vinyl)-pyridinium betaine
0.2 mmol 3-[ethyl-(3-formyl-2-oxo-2H-chromen-7-yl)-amino]-propane-1-sulfonic acid sodium salt and 0.2 mmol 1-(5-carboxy-pentyl)-4-methyl-pyridinium bromide are converted according to the general directions above. Column chromatography: SiO2 (RP18), eluent: methanol/water.

reactant | 3-[ethyl-(3-formyl-2-oxo-2H-chromen-7-yl)-amino]-propane-1-sulfonic acid sodium salt | 0.2 mmol | [Na+].C(C)N(CCCS(=O)(=O)[O-])C1=CC=C2C=C(C(OC2=C1)=O)C=O
reactant | 1-(5-carboxy-pentyl)-4-methyl-pyridinium bromide | 0.2 mmol | [Br-].C(=O)(O)CCCCC[N+]1=CC=C(C=C1)C
reactant | methanol water | CO.O
product | 1-(5-carboxy-pentyl)-4-((E)-2-{7-[ethyl-(3-sulfonatopropyl)-amino]-2-oxo-2H-chromen-3-yl}-vinyl)-pyridinium betaine | C(=O)(O)CCCCC[N+]1=CC=C(C=C1)\C=C\C=1C(OC2=CC(=CC=C2C1)N(CCCS(=O)(=O)[O-])CC)=O.C[N+](C)(C)CC(=O)O | InChI=1S/C27H32N2O7S.C5H11NO2/c1-2-29(15-6-18-37(33,34)35)24-11-10-22-19-23(27(32)36-25(22)20-24)9-8-21-12-16-28(17-13-21)14-5-3-4-7-26(30)31;1-6(2,3)4-5(7)8/h8-13,16-17,19-20H,2-7,14-15,18H2,1H3,(H-,30,31,33,34,35);4H2,1-3H3/p+1
